* C:\Users\HP\Desktop\Draft1.asc
V1 N001 0 30V
R1 0 N004 100
Vgate N003 N004 5V
R2 N002 0 {R_load}
XU1 N001 N003 N002 X1
.step param R_load list 72.5 36.25 24.16 18.12 14.5
.tran 10m
.subckt X1 A G K
Q1 K N001 K 0 2N2222
Q2 A N001 A 0 2N2907
R_g G N001 10
.model 2N2222 NPN
.model 2N2907 PNP
.ends
.backanno
.end
